US07576098B2
A solution of 6-nitroisoquinolin-1-amine (25.00 g, 0.132 mol), di-tert-butyl dicarbonate (63.45 g, 0.29 mol) and DMAP (750 mg, catalyst) in DMPU (125 ml) was stirred at 70° C. for 30 min. The reaction was quenched with water (300 ml). The reaction mixture was diluted with ethyl acetate (500 ml) and washed with water. The organic layer was separated and the solvent removed under vacuum. The residue was recrystallized from methanol to give 54.05 g (95.02%) of di-tert-butyl (6-nitroisoquinolin-1-yl)imidodicarbonate as a solid. 1H NMR (400 MHz, CDCl3) δ ppm 1.33 (s, 18 H) 7.86 (d, J=5.27 Hz, 1 H) 8.15 (d, J=9.23 Hz, 1 H) 8.39 (dd, J=9.23, 2.20 Hz, 1 H) 8.62 (d, J=5.71 Hz, 1 H) 8.82 (d, J=2.20 Hz, 1 H). LC-MS: 801 (2M+Na)+.

reactant | 6-nitroisoquinolin-1-amine | 0.132 mol, 25.00 g | [N+](=O)([O-])C=1C=C2C=CN=C(C2=CC1)N | C9H7N3O2
reactant | di-tert-butyl dicarbonate | 0.29 mol, 63.45 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 750 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMPU | 125 ml | CN1CCCN(C1=O)C | C6H12N2O
product | di-tert-butyl (6-nitroisoquinolin-1-yl)imidodicarbonate | 54.05 g, 95.02% | [N+](=O)([O-])C=1C=C2C=CN=C(C2=CC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C19H23N3O6
